US07777047B2
ethyl 7-amino-5-(3-methoxypropoxy)-1H-indole-2-carboxylate
A mixture of ethyl 5-(3-methoxypropoxy)-7-nitro-1H-indole-2-carboxylate (6.15 g), 10% palladium-carbon (50% containing water, 1.0 g) and tetrahydrofuran (150 mL) was subjected to catalytic reduction at room temperature under hydrogen atmosphere at normal pressure. The catalyst was filtered off, and the filtrate was concentrated. The obtained crystals were washed with diisopropyl ether to give the title compound (5.41 g, yield 97%) as yellow crystals. The crystals were recrystallized from ethyl acetate-diisopropyl ether to give pale-yellow prism crystals. melting point 139-140° C.

reactant | ethyl 5-(3-methoxypropoxy)-7-nitro-1H-indole-2-carboxylate | 6.15 g | COCCCOC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C(=O)OCC | C15H18N2O6
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | ethyl 7-amino-5-(3-methoxypropoxy)-1H-indole-2-carboxylate | 5.41 g, yield 97% | NC=1C=C(C=C2C=C(NC12)C(=O)OCC)OCCCOC | C15H20N2O4
